US06187769B1
Synthesis of 4-(4-bromobutyl)-4,5-dihydro-8-methoxy-1,4-benzoxazepin-5-one
200 mg of 4,5-dihydro-8-methoxy-1,4-benzoxazepin-5-one was dissolved in 10 ml of dimethylformamide, then 50 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 790 mg (3 equivalents) of 1,4-dibromobutane was added and the resultant mixture was agitated at room temperature for 6 hours.

reactant | 4,5-dihydro-8-methoxy-1,4-benzoxazepin-5-one | 200 mg | COC1=CC2=C(C(NC=CO2)=O)C=C1 | C10H9NO3
reactant | sodium hydride | 50 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1,4-dibromobutane | 790 mg, 3 equivalents | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromobutyl)-4,5-dihydro-8-methoxy-1,4-benzoxazepin-5-one | BrCCCCN1C=COC2=C(C1=O)C=CC(=C2)OC | C14H16BrNO3
